US05925768
1-(1-Bromoethyl)-3,4-dichlorobenzene
This compound is prepared by the procedure described in Preparation 3.4 from 25 ml of a 33% solution of HBr in AcOH and 5 g of 3,4-dichloro-1-(1-hydroxyethyl)benzene. 6.4 g of the expected product are obtained.

reactant | HBr | Br | BrH
reactant | 3,4-dichloro-1-(1-hydroxyethyl)benzene | 5 g | ClC=1C=C(C=CC1Cl)C(C)O | C8H8Cl2O
solvent | AcOH | CC(=O)O | C2H4O2
product | 1-(1-Bromoethyl)-3,4-dichlorobenzene | 6.4 g | BrC(C)C1=CC(=C(C=C1)Cl)Cl | C8H7BrCl2
